US06239131B1
Preparation of 1-[1-(2-toluoylmethyl)-2-oxo-5-benzoyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(4-ethoxycarbonylphenyl)urea
Step 2 of Example 10 was repeated except that 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-benzoyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine was used instead of 1-tert-butylcarbonylmethyl-2-oxo-3-tert-butoxycarbonylamino-5-pivaloyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine. Subsequently, Step 3 of Example 10 was repeated except that ethyl 4-aminobenzoate was used instead of ethyl 3-aminobenzoate, to thereby obtain the title compound.

reactant | 1-(2-toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-benzoyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C2=CC=CC=C2)=O)NC(=O)OC(C)(C)C)=O)C | C31H33N3O5
reactant | ethyl 4-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
product | 1-[1-(2-toluoylmethyl)-2-oxo-5-benzoyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepin-3-yl]-3-(4-ethoxycarbonylphenyl)urea | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C(C2=CC=CC=C2)=O)NC(=O)NC2=CC=C(C=C2)C(=O)OCC)=O)C | C36H34N4O6
